### ISSUE TITLE
Add tactic-analysis to detect when slow tactics could be replaced by faster ones

### ISSUE THREAD

**Issue by paulcadman** [mathlib-initiative/TaskList#51]
We could expand the tactic-analysis framework to detect when slow tactics like `aesop` could be replaced with a faster tactic like `simp_all`.

This is a narrower scoped version of https://github.com/mathlib-initiative/TaskList/issues/6.

Example replacements:

```lean
example : Continuous fun x : ℝ => x + x := by
  continuity

example : Continuous fun x : ℝ => x + x := by
  fun_prop
```

```lean
example (P Q : Prop) (hP : P) (hPQ : P → Q) : Q := by
  aesop

example (P Q : Prop) (hP : P) (hPQ : P → Q) : Q := by
  simp_all
```

Originally suggested by @grunweg.
